US04372953
1-Methyl-5-[3-(N-ethylamino)propylthio]-1,2,3,4-tetrazole (1 g) is dissolved in a mixture of acetone (50 ml) and water (10 ml). To the mixture is added potassium carbonate (0.7 g) and thereto is added dropwise with stirring cyclohexanecarboxylic acid chloride (0.9 g) under ice-cooling. Stirring is continued for 2 hours under ice-cooling. After acetone is distilled off, water is added to the resulting residue and the mixture is extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride and dried over sodium sulfate. Chloroform is distilled off and then the residue is purified by column chromatography (Wakogel C-200), followed by eluting with chloroform to give 1-methyl-5-[3-(N-ethyl-N-cyclohexylcarbonylamino)propylthio]-1,2,3,4-tetrazole (0.9 g), colorless liquid, nD23.5 =1.5267.

reactant | 1-Methyl-5-[3-(N-ethylamino)propylthio]-1,2,3,4-tetrazole | 1 g | CN1N=NN=C1SCCCNCC | C7H15N5S
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexanecarboxylic acid chloride | 0.9 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 1-methyl-5-[3-(N-ethyl-N-cyclohexylcarbonylamino)propylthio]-1,2,3,4-tetrazole | 0.9 g | CN1N=NN=C1SCCCN(C(=O)C1CCCCC1)CC | C14H25N5OS
